US09371319B2
Preparation 137: 6-Bromo-2-(diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine
6-Bromo-2-(diethoxymethyl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine (Preparation 136, 202 mg, 0.54 mmole) was stirred in methanol (2.4 mL) and 1M sodium hydroxide in water (0.62 mL, 0.62 mmole) was added. The reaction was stirred at 25° C. for 6 hours. The methanol was evaporated and the residue taken up in ethyl acetate (25 mL). The solution was washed with water and brine, the organic layer was concentrated in vacuo to afford the title compound (142 mg, 89%). 1H-NMR (CDCl3, 500 MHz): δ 1.27 (t, J=6.94 Hz, 6H), 3.58-3.72 (m, 4H), 5.73 (m, 1H), 6.59 (m, 1H), 7.48 (m, 1H), 8.65 (s, 1H), 8.84 (br s, 1H, NH).

reactant | 6-Bromo-2-(diethoxymethyl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine | 0.54 mmole, 202 mg | BrC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C(OCC)OCC | C13H17BrN2O4S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | water | 0.62 mmole, 0.62 mL | O | H2O
solvent | methanol | 2.4 mL | CO | CH4O
product | 6-Bromo-2-(diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine | 142 mg, 89% | BrC1=CC2=C(C=N1)C=C(N2)C(OCC)OCC | C12H15BrN2O2
